US06291465B1
A mixture of 1.0 g (4.6 mmol) 2-bromo-5-nitroaniline, 20 ml benzene, 10 ml 2 N sodium carbonate solution, 159 mg (0.14 mmol) tetrakis (triphenylphosphine)-palladium(0) and 725 mg (5.07 mmol) o-tolylboronic acid was heated under argon at 60° for 20 hrs. After cooling to room temperature, the aqueous phase was separated and washed twice with toluene. The combined organic layers were washed with brine, dried (Na2SO4) and evaporated. The residue was purified by chromatography (SiO2, CH2Cl2/hexane 2:1) to yield 950 mg (91%) of 2′-methyl-4nitro-biphenyl-2-ylamine as a pale yellow oil, MS (EI): 228 (M+).

reactant | 2-bromo-5-nitroaniline | 4.6 mmol, 1.0 g | BrC1=C(N)C=C(C=C1)[N+](=O)[O-] | C6H5BrN2O2
reactant | sodium carbonate | 2 N, 10 ml | C([O-])([O-])=O.[Na+].[Na+]
reactant | o-tolylboronic acid | 5.07 mmol, 725 mg | C1(=C(C=CC=C1)B(O)O)C | C7H9BO2
catalyst | tetrakis (triphenylphosphine)-palladium(0) | 0.14 mmol, 159 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
solvent | benzene | 20 ml | C1=CC=CC=C1 | C6H6
product | 2′-methyl-4nitro-biphenyl-2-ylamine | 950 mg, 91% | CC1=C(C=CC=C1)C1=C(C=C(C=C1)[N+](=O)[O-])N | C13H12N2O2
